US09359344B2
(1) Preparation of (R)-(3-(3-fluoro-4-(6-((1-methyl-1H-tetrazol-5-yl)amino)pyridin-3-yl)phenyl)-2-oxooxazolidin-5-yl)methyl dihydrogen phosphate
(R)-3-(3-fluoro-4-(6-((1-methyl-1H-tetrazol-5-yl)amino)pyridin-3-yl)phenyl)-5-(hydroxylmethyl)oxazolidin-2-one (200 mg, 0.52 mmol) was dissolved in 30 mL THF, and triethylamine (262 mg, 2.6 mmol) was added under ice-water bath. After half an hour, phosphorus oxychloride (397 mg, 2.6 mmol) was added, and reacted at room temperature for 12 h. Water (180 mg, 10 mmol) was added dropwise. After filtration, 140 mg of product was obtained, at a yield of 57%.

reactant | (R)-3-(3-fluoro-4-(6-((1-methyl-1H-tetrazol-5-yl)amino)pyridin-3-yl)phenyl)-5-(hydroxylmethyl)oxazolidin-2-one | 0.52 mmol, 200 mg | FC=1C=C(C=CC1C=1C=NC(=CC1)NC1=NN=NN1C)N1C(O[C@H](C1)CO)=O | C17H16FN7O3
reactant | triethylamine | 2.6 mmol, 262 mg | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 2.6 mmol, 397 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Water | 10 mmol, 180 mg | O | H2O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-(3-(3-fluoro-4-(6-((1-methyl-1H-tetrazol-5-yl)amino)pyridin-3-yl)phenyl)-2-oxooxazolidin-5-yl)methyl dihydrogen phosphate | 140 mg, yield of 57% | P(=O)(OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1C=NC(=CC1)NC1=NN=NN1C)F)(O)O | C17H17FN7O6P
